US08034812B2
Production of 3-methyl-1-(2,2,2-trifluoroethyl)-1H-pyrazole-5-carboxylic acid
To a solution of ethyl 3-methyl-1-(2,2,2-trifluoroethyl)-1H-pyrazole-5-carboxylate (1.74 g, 7.36 mmol) in tetrahydrofuran (5.0 mL) was added 8N sodium hydroxide (4.6 mL), and the mixture was stirred at room temperature for 2 hr. 6N hydrochloric acid (6.0 mL) was added to the mixture (pH=3), and the aqueous layer was extracted three times with ethyl acetate/tetrahydrofuran. Combined organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was filtrated, and washed with ethyl acetate/hexane to give the title compound (1.28 g, 84%) as a white powder.

reactant | ethyl 3-methyl-1-(2,2,2-trifluoroethyl)-1H-pyrazole-5-carboxylate | 7.36 mmol, 1.74 g | CC1=NN(C(=C1)C(=O)OCC)CC(F)(F)F | C9H11F3N2O2
reactant | sodium hydroxide | 8N, 4.6 mL | [OH-].[Na+]
reactant | hydrochloric acid | 6N, 6.0 mL | Cl | ClH
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | 3-methyl-1-(2,2,2-trifluoroethyl)-1H-pyrazole-5-carboxylic acid | 1.28 g, 84% | CC1=NN(C(=C1)C(=O)O)CC(F)(F)F | C7H7F3N2O2
